US07772271B2
To a solution of 2-(4-aminophenyl)-1-cyclopropyl-6-methoxyindole-3-carbonitrile (2.02 g, 6.7 mmol), prepared in example 1CG, step E, in dry DCM (30 mL), at −30° C., is added boron tribromide (8.35 g, 3.15 mL, 33.3 mmol). The mixture is stirred at −30° C. ˜−15° C. for 1.5 h and then brought to ambient temperature and stirred for 15 min. The mixture is poured into saturated NaHCO3 and ice and stirred for 1 h. The volatiles are removed on a rotovap and the precipitate is collected via filtration and washed with water and then dried under a stream of N2 to provide 2-(4-aminophenyl)-1-cyclopropyl-6-hydroxyindole-3-carbonitrile in quantitative yield.

reactant | 2-(4-aminophenyl)-1-cyclopropyl-6-methoxyindole-3-carbonitrile | 6.7 mmol, 2.02 g | NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)OC)C1CC1 | C19H17N3O
reactant | boron tribromide | 33.3 mmol, 3.15 mL, 8.35 g | B(Br)(Br)Br | BBr3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-aminophenyl)-1-cyclopropyl-6-hydroxyindole-3-carbonitrile | quantitative yield | NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)O)C1CC1 | C18H15N3O
